US07601716B2
1-(2,5-Difluorobenzyl)-7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
4-[1-(2,5-Difluorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid (35 mg) was reacted with 1-methyl piperazine as in General Procedure 8 to give the title compound as a light yellow solid (38% yield). m.p. 223° C. (dec), LCMS: m/z=478.20 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.32 (s, 3H), 2.35-2.48 (m, 4H), 3.48-3.54 (m, 2H), 3.70-3.80 (m, 2H), 4.34 (s, 2H), 5.11 (s, 1H), 5.22 (s, 2H), 6.90-6.98 (m, 2H), 7.06-7.13 (m, 1H), 7.20 (d, J=1.8 Hz, 1H), 7.41 (d, J=8.1 Hz, 1H), 7.45 (d, J=8.3 Hz, 1H), 8.01 (d, J=1.8 Hz, 1H).

reactant | 4-[1-(2,5-Difluorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid | 35 mg | FC1=C(CN2C3=C(NCC2=O)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C=C(C=C1)F | C21H15F2N3O3
reactant | 1-methyl piperazine | CN1CCNCC1 | C5H12N2
product | 1-(2,5-Difluorobenzyl)-7-[4-(4-methylpiperazine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 38% yield | FC1=C(CN2C3=C(NCC2=O)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C)C=C(C=C1)F | C26H25F2N5O2
